US20010047031A1
(2RS,3 S)-2-Fluoro-1-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-4-phenyl-butan-1-one
The title compound, MS: m/e=360.2 (M+H+) was prepared from (RS)-2-fluoro-4-phenyl-butyric acid and (3S)-4-(pyrrolidin-3-yl-sulfanyl)-phenol hydrobromide.

reactant | (RS)-2-fluoro-4-phenyl-butyric acid | FC(C(=O)O)CCC1=CC=CC=C1 | C10H11FO2
reactant | (3S)-4-(pyrrolidin-3-yl-sulfanyl)-phenol hydrobromide | Br.N1C[C@H](CC1)SC1=CC=C(C=C1)O
product | (2RS,3 S)-2-Fluoro-1-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-4-phenyl-butan-1-one | FC(C(=O)N1C[C@H](CC1)SC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H22FNO2S
